US07528134B2
3-chloro-N-{[4-(2-pyridinyl)-1-piperazinyl]methyl}benzamide
A mixture of 1-pyridin-2-ylpiperazine (16 mg, 0.1 mmol, Aldrich), paraformaldehyde (30 mg, 1 mmol), 3-chlorobenzamide (78 mg, 0.5 mmol, Maybridge), and 42 mg of potassium carbonate (0.3 mmol) in 2 mL absolute ethyl alcohol was heated to reflux under nitrogen overnight. The mixture was cooled to room temperature, filtered, and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel (10% methanol:ethyl acetate) to give 26 mg (52%) pure compound; 1H NMR (500 MHz, DMSO-d6) δ 2.58 (t, J=4 Hz, 4H), 3.50 (t, J=4 Hz, 4H), 4.19 (d, J=5 Hz, 1H), 6.62 (t, J=5 Hz, 1H), 6.81 (d, J=6 Hz, 1H), 7.51 (m, 2H), 7.61 (m, 1H), 7.82 (d, J=6 Hz, 1H), 7.92 (s, 1H), 8.12 (d, J=5 Hz, 1H), 8.93 (t, J=5 Hz, 1H); MS (ESI/APCI−) m/e 329 (M−H)+.

reactant | 1-pyridin-2-ylpiperazine | 0.1 mmol, 16 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | paraformaldehyde | 1 mmol, 30 mg | C=O | CH2O
reactant | 3-chlorobenzamide | 0.5 mmol, 78 mg | ClC=1C=C(C(=O)N)C=CC1 | C7H6ClNO
reactant | potassium carbonate | 0.3 mmol, 42 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl alcohol | 2 mL | C(C)O | C2H6O
product | 3-chloro-N-{[4-(2-pyridinyl)-1-piperazinyl]methyl}benzamide | 26 mg, 52% | ClC=1C=C(C(=O)NCN2CCN(CC2)C2=NC=CC=C2)C=CC1 | C17H19ClN4O
